US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, diacetylmonoxime and m-tolualdehyde gave 4-iodomethyl-5-methyl-2-m-tolyloxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | m-tolualdehyde | C1(=CC(=CC=C1)C=O)C | C8H8O
product | 4-iodomethyl-5-methyl-2-m-tolyloxazole | ICC=1N=C(OC1C)C=1C=C(C=CC1)C | C12H12INO
